US07439239B2
10-(8-Aza-bicyclo[3.2.1]oct-3-yl)-6-methoxy-10H-phenoxazine-3-carboxylic acid diethylamide, 5e
To a solution of the TFA salt of 10-(8-methyl-8-aza-bicyclo[3.2.1]oct-3-yl)-10H-phenoxazine-3-carboxylic acid diethylamide, 4e (110 mg, 0.25 mmol) in methylene chloride (10 mL) was added 1-chloroethyl chloroformate (0.58 mL, 0.75 mmol). The mixture was heated to reflux for 2 h. The mixture was evaporated, dissolved in methanol (5 mL), and heated for 2 h at reflux. Water was added, and the solution was extracted with methylene chloride. The organic phase was separated, evaporated, and purified via reverse phase HPLC to yield 69 mg (44.8%) of title compound 10-(8-aza-bicyclo[3.2.1]oct-3-yl)-6-methoxy-10H-phenoxazine-3-carboxylic acid diethylamide, 5e, as a TFA salt. MS m/z=422 (M+1).

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 10-(8-methyl-8-aza-bicyclo[3.2.1]oct-3-yl)-10H-phenoxazine-3-carboxylic acid diethylamide | C(C)N(C(=O)C=1C=CC=2N(C3=CC=CC=C3OC2C1)C1CC2CCC(C1)N2C)CC | C25H31N3O2
reactant | 1-chloroethyl chloroformate | 0.75 mmol, 0.58 mL | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 10-(8-Aza-bicyclo[3.2.1]oct-3-yl)-6-methoxy-10H-phenoxazine-3-carboxylic acid diethylamide | 69 mg, 44.8% | C(C)N(C(=O)C=1C=CC=2N(C3=CC=CC(=C3OC2C1)OC)C1CC2CCC(C1)N2)CC | C25H31N3O3
